US05703098
3-Phthalimido-3-(3',4'-dimethoxyphenyl)propan-1-ol
A mixture of 3-amino-3-(3',4'-dimethoxyphenyl)-propan-1-ol (1.11 grams, 5 mmol) and phthalic anhydride (0.74 grams, 5 mmol) were melted together and stirred for 5 minutes. After cooling, a green/yellow glassy semi solid formed which was stirred in ether to afford 1.62 g (95%) of crude product as a white solid. The crude product was purified by flash chromatography (silica gel, 40% ethyl acetate/methylene chloride) to afford 1.25 grams (73%) of product as a white solid. 1H NMR (CDCl3)δ7.85-7.63 (m, 4H), 7.18-7.07 (m , 2H), 6.86-6.76 (m, 1H), 5.62-5.49(m, 1H), 3.88 (s, 3H), 3.85 (s, 3H), 3.79-3.63 (m, 2H), 2.89-2.71 (m, 1H), 2.64-2.47 (m, 1H), 1.87-1.73 (br m, 1H). 13C NMR (CDCl3)δ168.5, 148.8, 148.6, 133.9, 131.8, 131.7, 123.2, 120.7, 111.6, 110.8, 59.8, 55.0, 55.8, 51.4, 33.9. Anal. Calcd. for C19 H19NO5. Theoretical: C, 66.85; H, 5.61 ;N, 4.10. Found: C, 66.70; H, 5.60; N, 4.06. HPLC 100%.

reactant | 3-amino-3-(3',4'-dimethoxyphenyl)-propan-1-ol | 5 mmol, 1.11 grams | NC(CCO)C1=CC(=C(C=C1)OC)OC | C11H17NO3
reactant | phthalic anhydride | 5 mmol, 0.74 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | ether | CCOCC | C4H10O
product | 3-Phthalimido-3-(3',4'-dimethoxyphenyl)propan-1-ol | 1.25 grams, 73% | C1(C=2C(C(N1C(CCO)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H19NO5
